US05399712
A solution of 0.8 g (2.27 mmol) of 1-menthyl 6,7,8,9tetrahydropyrido[1,2-a]indole-8(S)-carboxylate in 15 ml of dry tetrahydrofuran was treated dropwise under a nitrogen atmosphere with 2 ml (2 mmol) of 1M lithium aluminum hydride. After 10 minutes, the mixture was cooled in ice, treated successively with 5 ml of ethyl acetate and 30 ml of water and acidified with 1M hydrochloric acid. The mixture was extracted three times with diethyl ether and the combined extracts were dried over sodium sulfate and evaporated. Flash chromatography on silica gel using ethyl acetate/hexane (1:1) for the elution gave (S)-8-(hydroxymethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indole as a white solid which was dissolved in 5 ml of dichloromethane. Then, 0.43 g (4.21 mmol) of acetic anhydride and 0.9 ml (6.5 mmol) of triethylamine were added and the solution was left to stand for 17 hours. The solvent was evaporated. The residue was partitioned between 5% aqueous sodium bicarbonate solution and diethyl ether. The organic phase was dried over sodium sulfate and evaporated. The residue was crystallized from aqueous ethanol to give 0.518 g (94%) of (S)-8-(acetoxymethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indole as a white solid of melting point 63°-64° C.; [α]589 ;20 =43.7° (c=1% in chloroform).

reactant | 1-menthyl 6,7,8,9tetrahydropyrido[1,2-a]indole-8(S)-carboxylate | 2.27 mmol, 0.8 g | C1=C2C=C3N(C2=CC=C1)CC[C@@H](C3)C(=O)OC3(CCC(CC3)C(C)C)C | C23H31NO2
reactant | lithium aluminum hydride | 2 mmol, 1M, 2 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | (S)-8-(hydroxymethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indole | OC[C@@H]1CC=2N(C3=CC=CC=C3C2)CC1 | C13H15NO
